US04565568
PREPARATION OF 2-(4-((3-FLUORO-5-(TRIFLUOROMETHYL)-2-PYRIDINYL)OXY)PHENOXY)PROPANOIC ACID
2-(4-Hydroxyphenoxy)propanoic acid (1.80 g, 0.00988 mole) was dissolved in 15 ml of dimethyl sulfoxide. A solution of sodium hydroxide (0.8 g, 0.02 mole in 1 ml of water) was added and the reaction mixture was heated under nitrogen to 48° C. over a 27 minute period. 2-Bromo-3-fluoro-5-(trifluoromethyl)pyridine (2.40 g, 0.00984 mole) dissolved in 5 ml of dimethyl sulfoxide was added and the reaction mixture was heated at 75°-78° C. for 40 minutes. The mixture was poured into 150 ml of cold water and acidified with aqueous HCl. A gum came down. Upon work-up and purification, a fraction (0.45 g) was obtained which had an elemental analysis of, in percent by weight:

reactant | 2-(4-Hydroxyphenoxy)propanoic acid | 0.00988 mole, 1.80 g | OC1=CC=C(OC(C(=O)O)C)C=C1 | C9H10O4
reactant | sodium hydroxide | 0.02 mole, 1 ml, 0.8 g | [OH-].[Na+]
reactant | 2-Bromo-3-fluoro-5-(trifluoromethyl)pyridine | 0.00984 mole, 2.40 g | BrC1=NC=C(C=C1F)C(F)(F)F | C6H2BrF4N
reactant | HCl | Cl | ClH
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | water | 150 ml | O | H2O
product | 2-(4-((3-FLUORO-5-(TRIFLUOROMETHYL)-2-PYRIDINYL)OXY)PHENOXY)PROPANOIC ACID | FC=1C(=NC=C(C1)C(F)(F)F)OC1=CC=C(OC(C(=O)O)C)C=C1 | C15H11F4NO4
